US05807857
7. 3-(5-(1,2,4-Triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)propanoic acid (4-benzylpiperazinyl)amide
To a suspension of 3-(5-(1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)propionic acid (0.65 g) in dry DMF (5 mL) was added 1-benzylpiperazine (0.36 mL, 2.3 mmol), 1-hydroxybenzotriazole (0.255 g, 1.9 mmol), 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride (0.362 g, 1.9 mmol) and triethylamine (0.26 mL, 1.9 mmol) and this mixture was stirred at ambient temperature under nitrogen for 16 hours. The solvent was evaporated in vacuo and the residue was partitioned between ethyl acetate (25 mL) and water (25 mL) and Na2CO3 (sat., 1 mL). The two phases were separated and the aqueous phase was extracted with ethyl acetate (3×25 mL). The combined organics were dried (Na2 SO4) and evaporated in vacuo. The residue was chromatographed on silica eluting with a gradient of 5 to 10% MeOH in DCM to give the title compound (0.625 g, 100%) as a pale yellow foam. 1H NMR (360 MHz, CDCl3) δ 2.28-2.46 (4H, m), 2.70 (2H, t, J=7.1Hz), 3.15 (2H, t, J=7.2Hz), 3.37-3.43 (2H, m), 3.50 (2H, s), 3.60-3.68 (2H, m), 7.23-7.34 (6H, m), 8.05 (1H, s), 8.10 (1H, s), 8.58 (1H, s), 8.69 (1H, br s) and 9.14 (1H, s).

reactant | 3-(5-(1,2,4-triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)propionic acid | 0.65 g | N1(N=CN=C1)C=1C=C2C(=CN1)NC=C2CCC(=O)O | C12H11N5O2
reactant | 1-benzylpiperazine | 2.3 mmol, 0.36 mL | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | 1-hydroxybenzotriazole | 1.9 mmol, 0.255 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-[3-(dimethylamino)propyl]carbodiimide hydrochloride | 1.9 mmol, 0.362 g | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 1.9 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(5-(1,2,4-Triazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)propanoic acid (4-benzylpiperazinyl)amide | 0.625 g, 100% | C(C1=CC=CC=C1)N1CCN(CC1)NC(CCC1=CNC2=CN=C(C=C21)N2N=CN=C2)=O | C23H26N8O
